US07709503B2
Intermediate 65: 1-[6-Chloro-4-(1-methyl-1H-tetrazol-5-yl)pyridin-2-yl]-N-methylpiperidin-4-amine
tert-Butyl piperidin-4-ylcarbamate (87 mg, 0.44 mmol) and DIEA (76 μl, 0.44 mmol) were added to a solution of 2,6-dichloro-4-(2-methyl-2H-tetrazol-5-yl)-pyridine (100 mg, 0.44 mmol) in anhydrous NMP (2 ml). Using a Smith Microwave Synthesizer, the mixture was subjected to single-mode microwave at 150° C. for 15 minutes, diluted with EtOAc (25 ml) and washed with water (4×25 ml). The organic phase was dried over Na2SO4 and concentrated in vacuo to give a brown solid. This sample was treated with 4 N HCl/dioxane (8 ml) for 45 minutes. The solvent was removed under reduced pressure and the material was dried in vacuo.

reactant | tert-Butyl piperidin-4-ylcarbamate | 0.44 mmol, 87 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 0.44 mmol, 76 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,6-dichloro-4-(2-methyl-2H-tetrazol-5-yl)-pyridine | 0.44 mmol, 100 mg | ClC1=NC(=CC(=C1)C=1N=NN(N1)C)Cl | C7H5Cl2N5
reactant | HCl dioxane | 4 N, 8 ml | Cl.O1CCOCC1
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | 1-[6-Chloro-4-(1-methyl-1H-tetrazol-5-yl)pyridin-2-yl]-N-methylpiperidin-4-amine | ClC1=CC(=CC(=N1)N1CCC(CC1)NC)C1=NN=NN1C | C13H18ClN7
